US06329209B1
Sodium thiosulfate (55.3 g, 350 mmol) is added to a suspension of 11-bromo-undecanoic acid (92.8 g, 350 mmol) in 50% aqueous 1,4-dioxane (1000 ml). The mixture is heated at reflux (90° C.) for 2 h until the reaction to the intermediate Bunte salt was complete (clear solution). The oxidation to the corresponding disulfide is carried out in situ by adding iodine in portions until the solution retained with a yellow to brown colour. The surplus of iodine is retitrated with 15% sodium pyrosulfite in water. After removal of 1,4-dioxane by rotary evaporation the creamy suspension is filtered to yield product 11,11′-dithiobis(undecanoic acid). Recrystallization from ethyl acetate/THF provides a white solid (73.4 g, 96.5%): mp 94° C.; 1H NMR (400 MHz, CDCl3/ CD3OD 95 : 5): δ2.69 (t, 2H, J=7.3 Hz), 2.29 (t, 2H, J=7.5 Hz), 1.76-1.57 (m, 4H), and 1.40-1.29 (m, 12H); FAB-MS (Cs+, 20 keV): m/z (relative intensity) 434 (100, M+). Anal. Calcd. for C22H42O4S2: C, 60.79; H, 9.74; S, 14.75. Found: C, 60.95; H, 9.82; S, 14.74. To a solution of 11,11′-dithiobis(undecanoic acid) (1.0 g, 2.3 mmol) in THF (50 ml) is added N-hydroxysuccinimide (0.575 g, 5 mmol) followed by DCC (1.03 g, 5 mmol) at 0° C. After the reaction mixture is allowed to warm to 23° C. and is stirred. for 36 h at room temperature, the dicyclohexylurea (DCU) is filtered. Removal of the solvent under reduced pressure and recrystallization from acetone/hexane provides 11,11′-dithiobis(succinimidylundecanoate) as a white solid. Final purification is achieved by medium pressure liquid chromatography (9 bar) using silica gel and a 2:1 mixture of ethyl acetate and hexane. The organic phase is concentrated and dried in vacuum to afford 11,11′-dithiobis(succinimidylundecanoate) (1.12 g, 78%): mp 95° C.; 1H NMR (400 MHz, CDCl3): δ2.83 (s, 4H), 2.68 (t, 2H, J=7.3 Hz), 2.60 (t, 2H, J=7.5 Hz), 1.78-1.63 (m, 4H), and 1.43-1.29 (m, 12H); FAB-MS (Cs+, 20 keV): m/z (relative intensity) 514 (100), 628 (86, M+). Anal. Calcd. for C30H48N2O8S2: C, 57.30; H, 7.69; N, 4.45; S, 10.20. Found: C, 57.32; H, 7.60; N, 4.39; S, 10.25.

reactant | Sodium thiosulfate | 350 mmol, 55.3 g | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | 11-bromo-undecanoic acid | 350 mmol, 92.8 g | BrCCCCCCCCCCC(=O)O | C11H21BrO2
reactant | iodine | II | I2
reactant | sodium pyrosulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 1000 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 11,11′-dithiobis(undecanoic acid) | C(CCCCCCCCCCSSCCCCCCCCCCC(=O)O)(=O)O | C22H42O4S2
